US04410699
4-(4-Chloro-2-fluorobenzyl)-2-methyl-1,2,3,4-tetrahydro-4-isoquinolinol
To a suspension of magnesium shavings (15.7 g) and a few crystals of iodine in anhydrous ether (200 ml) is slowly dropped 4-chloro-2-fluorobenzylbromide (146.0 g) in anhydrous ether (200 ml) at such a rate so as to maintain the ether reflux. After the addition is complete, the reaction mixture is heated under reflux for two hours. A solution of 2-methyl-2,3-dihydro-4(1H)-isoquinolone (70.2 g) in anhydrous ether (200 ml) is slowly added dropwise. After the addition is complete, the reaction mixture is heated under reflux for three hours. The reaction mixture, after cooling, is stirred in 1.5 l. saturated ammonium chloride and extracted with ether. The combined ether extracts are washed with water (2x), saturated sodium chloride solution and dried over anhydrous magnesium sulfate. After filtering, the solvent is removed to yield a solid, which upon trituration with petroleum ether, yields the product (109.5 g, 82%), mp 113°-116°. An analytical sample is recrystallized from anhydrous ether to yield needles, mp 116°-117°.

reactant | magnesium | 15.7 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 4-chloro-2-fluorobenzylbromide | 146.0 g | ClC1=CC(=C(CBr)C=C1)F | C7H5BrClF
reactant | 2-methyl-2,3-dihydro-4(1H)-isoquinolone | 70.2 g | CN1CC2=CC=CC=C2C(C1)=O | C10H11NO
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 4-(4-Chloro-2-fluorobenzyl)-2-methyl-1,2,3,4-tetrahydro-4-isoquinolinol | 109.5 g, 82% | ClC1=CC(=C(CC2(CN(CC3=CC=CC=C23)C)O)C=C1)F | C17H17ClFNO
